US08119663B2
Ethyl 1-(cyclopentylcarbonyl)-5-[4-(trifluoromethyl)phenyl]piperidine-3-carboxylate [racemic cis/trans isomer mixture]
4.2 g (13.5 mmol) of ethyl 5-[4-(trifluoromethyl)phenyl]piperidine-3-carboxylate were dissolved in 33 ml of dichloromethane, and 2.04 g (20.2 mmol) of triethylamine were added at 0° C. 2.37 g (17.5 mmol) of cyclopentanecarbonyl chloride were then added dropwise. The reaction mixture was stirred at RT for 2 h. For work-up, the mixture was twice washed with water. The organic phase was dried over sodium sulphate and concentrated under reduced pressure. Yield: 5.9 g (100% of theory)

reactant | ethyl 5-[4-(trifluoromethyl)phenyl]piperidine-3-carboxylate | 13.5 mmol, 4.2 g | FC(C1=CC=C(C=C1)C1CC(CNC1)C(=O)OCC)(F)F | C15H18F3NO2
reactant | triethylamine | 20.2 mmol, 2.04 g | C(C)N(CC)CC | C6H15N
reactant | cyclopentanecarbonyl chloride | 17.5 mmol, 2.37 g | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | dichloromethane | 33 ml | ClCCl | CH2Cl2
product | Ethyl 1-(cyclopentylcarbonyl)-5-[4-(trifluoromethyl)phenyl]piperidine-3-carboxylate | C1(CCCC1)C(=O)N1CC(CC(C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)OCC | C21H26F3NO3
